US07932246B2
2-(6-{[(Naphthalen-2-ylmethyl)amino]methyl}-3-azabicyclo[3.1.0]hex-3-yl)pyrimidine-5-carboxylic acid
Ethyl 2-(6-{[(naphthalen-2-ylmethyl)amino]methyl}-3-aza-bicyclo[3.1.0]hex-3-yl)-pyrimidine-5-carboxylate (0.76 mmol) was stirred in THF (6 ml) and 1M NaOH (6 ml) at r.t. for 16 h. The reaction was then acidified to pH˜3 with 2M HCl, causing a solid to precipitate. This was collected and dried to give the title compound as a white solid (72 mg, 25% over two steps) which was used in the next step without further purification. LCMS purity 96%, m/z 375 [M+H]+.

reactant | Ethyl 2-(6-{[(naphthalen-2-ylmethyl)amino]methyl}-3-aza-bicyclo[3.1.0]hex-3-yl)-pyrimidine-5-carboxylate | 0.76 mmol | C1=C(C=CC2=CC=CC=C12)CNCC1C2CN(CC12)C1=NC=C(C=N1)C(=O)OCC | C24H26N4O2
reactant | NaOH | 1M, 6 ml | [OH-].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 2-(6-{[(Naphthalen-2-ylmethyl)amino]methyl}-3-azabicyclo[3.1.0]hex-3-yl)pyrimidine-5-carboxylic acid | 72 mg, 25% | C1=C(C=CC2=CC=CC=C12)CNCC1C2CN(CC12)C1=NC=C(C=N1)C(=O)O | C22H22N4O2
